US07851629B2
1-ethyl-4-[2-fluoro-3-(trifluoromethoxy)phenyl]piperidine
Preparation according to Example 8: 4-[2-fluoro-3-(trifluoromethoxy)phenyl]piperidine (0.70 g, 2.66 mmol), acetonitrile (4 ml), potassium carbonate (0.92 g, 6.65 mmol), 1-iodoethane (0.275 ml, 2.93 mmol). Yield: 0.7 g. MS m/z (rel. intensity, 70 eV) 291 (M+, 14), 290 (10), 277 (15), 276 (bp), 193 (8).

reactant | 4-[2-fluoro-3-(trifluoromethoxy)phenyl]piperidine | 2.66 mmol, 0.70 g | FC1=C(C=CC=C1OC(F)(F)F)C1CCNCC1 | C12H13F4NO
reactant | potassium carbonate | 6.65 mmol, 0.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodoethane | 2.93 mmol, 0.275 ml | ICC | C2H5I
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-ethyl-4-[2-fluoro-3-(trifluoromethoxy)phenyl]piperidine | C(C)N1CCC(CC1)C1=C(C(=CC=C1)OC(F)(F)F)F | C14H17F4NO
